US08703953B2
To a stirred solution of tert-butyl((2S)-1-((9-chloro-5-(trifluoromethyl)-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate (50 mg, 0.100 mmol) in DCM (10 mL) was added 1M HCl in diethyl ether (0.100 mmol) at room temperature and the solution stirred for 14 h. The solvent was removed under reduced pressure to afford a residue which was purified by preparative HPLC using 0.1% TFA in methanol. The purification afforded (2S)-1-((9-chloro-5-(trifluoromethyl)-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-amine (10 mg, 0.023 mmol, 23% yield) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 8.67 (d, J=5.2 Hz, 1 H), 8.57 (s, 1 H), 8.32 (s, 1 H), 7.98 (d, J=5.2 Hz, 1 H), 6.97 (s, 1 H), 6.45 (m, 1 H), 3.9 (m, 1 H), 3.87 (m, 1 H), 3.09 (m, 1 H), 1.83 (m, 1 H), 1.33 (m, 2 H), 1.31-1.26 (m, 6 H); LCMS (ESI) m/e 401.2 [(M+H)+, calcd for C19H21ClF3N2O2 401.1]; LC/MS retention time (Method C): tR=1.69 min; HPLC retention time (method A): tR=5.80 min, 5.87 min (diastereomeric mixture); HPLC retention time (method B): tR=6.41 min, 6.45 min (diastereomeric mixture).

reactant | tert-butyl((2S)-1-((9-chloro-5-(trifluoromethyl)-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate | 0.100 mmol, 50 mg | C(C)(C)(C)OC(N[C@H](COC=1C(=CC2=C(C1)OC(C1=CN=CC=C12)C(F)(F)F)Cl)CC(C)C)=O | C24H28ClF3N2O4
reactant | HCl | 1M | Cl | ClH
reactant | diethyl ether | 0.100 mmol | C(C)OCC | C4H10O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (2S)-1-((9-chloro-5-(trifluoromethyl)-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-amine | 0.023 mmol, 10 mg, 23% yield | ClC1=CC2=C(C=C1OC[C@H](CC(C)C)N)OC(C1=CN=CC=C12)C(F)(F)F | C19H20ClF3N2O2
